US08242104B2
A solution of 2-fluoro-4-hydroxy-benzonitrile (80 g, 0.58 mol), potassium carbonate (162 g, 1.17 mol) and benzyl bromide (76.4 mL, 0.64 mol) and potassium iodide (9.6 g, 0.058 mol) in acetone (600 mL) was stirred at RT and a significant exothermic reaction was observed. Stirring continued for 18 h without cooling. Reaction progress was monitored by TLC analysis. The reaction mixture was diluted with H2O (600 mL) and extracted with EtOAc (500 mL×2). The combined organic extracts were washed with saturated aqueous NaCl solution (500 mL), dried over Na2SO4, filtered and concentrated in vacuo. The resultant residue was triturated in cyclohexane (300 mL) and the crystalline solid was filtered off and washed to afford 4-Benzyloxy-2-fluoro-benzonitrile (118.2 g, 90%). 1H NMR (400 MHz, CDCl3): 7.51 (1H, dd, J=8.70, 7.48 Hz), 7.40 (5H, m), 6.86-6.76 (2H, m), 5.11 (2H, s).

reactant | 2-fluoro-4-hydroxy-benzonitrile | 0.58 mol, 80 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | potassium carbonate | 1.17 mol, 162 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.64 mol, 76.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium iodide | 0.058 mol, 9.6 g | [I-].[K+]
solvent | acetone | 600 mL | CC(=O)C | C3H6O
solvent | H2O | 600 mL | O | H2O
product | 4-Benzyloxy-2-fluoro-benzonitrile | 118.2 g, 90% | C(C1=CC=CC=C1)OC1=CC(=C(C#N)C=C1)F | C14H10FNO
